US07186730B2
A mixture of 1,4-benzodioxanecarboxaldehyde [RN 29668-44-8](1.5 g, 9.14 mmol), trimethylsulfonium methyl sulfate (2.24 g, 11.9 mmol), dichloromethane (35 ml) and 50% aqueous sodium hydroxide (5 ml) were vigorously stirred for 70 hours. The mixture was partitioned between water and diethyl ether and the layers separated. The aqueous phase was extracted with diethyl ether. The combined organic phases were washed with water, brine, then dried over magnesium sulfate and evaporated to give crude 6-oxiranyl-2,3-dihydro-benzo[1,4]dioxine (1.64 g, 100%).

reactant | 1,4-benzodioxanecarboxaldehyde | 9.14 mmol, 1.5 g | O1C(COC2=C1C=CC=C2)C=O | C9H8O3
reactant | trimethylsulfonium methyl sulfate | 11.9 mmol, 2.24 g | COS(=O)(=O)[O-].C[S+](C)C
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 6-oxiranyl-2,3-dihydro-benzo[1,4]dioxine | 1.64 g, 100% | O1C(C1)C1=CC2=C(OCCO2)C=C1 | C10H10O3
